US06194461B1
Production of α-(4-cyanophenyl)-N-t-butylnitrone
To a solution of 4-cyanobenzaldehyde (392.9 mg, 3.00 mmol) and t-butylamine (227.3 mg, 3.10 mmol) in 1,2-dichloroethane (12 ml) was added sodium triacetoxyborohydride (0.8567 g, 4.04 mmol) and stirred for 3 hours. Acetic acid (0.17 ml, 2.95 mmol) was added to the mixture and stirred for 2.5 hours. The mixture was added to sat. NaHCO3 aqueous solution, extracted three times with ethyl acetate and dried over MgSO4. The solvent was evaporated to give the crude title compound (595.3 mg).

reactant | 4-cyanobenzaldehyde | 3.00 mmol, 392.9 mg | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | t-butylamine | 3.10 mmol, 227.3 mg | C(C)(C)(C)N | C4H11N
reactant | sodium triacetoxyborohydride | 4.04 mmol, 0.8567 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Acetic acid | 2.95 mmol, 0.17 ml | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 12 ml | ClCCCl | C2H4Cl2
product | α-(4-cyanophenyl)-N-t-butylnitrone | 595.3 mg | C(#N)C1=CC=C(C=C1)C=[N+]([O-])C(C)(C)C | C12H14N2O
